US07608629B2
Preparation 109. 4-[6-(2-Chloro-4-fluoro-benzoylamino)-pyridin-2-yloxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2
Combine 4-(6-amino-pyridin-2-yloxy)-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2 (preparation 64, 0.714 g) and 2-chloro-4-fluorobenzoyl chloride (0.493 g) in 1,4-dioxane (20 mL) and heat. After 2.5 hr., partition between ethyl acetate and saturated aqueous NaCl, dry over anhydrous sodium sulfate, evaporate and purify on a silica gel column eluting with dichloromethane-2M NH3 in methanol, gradient to give the title compound (0.678 g). Mass spectrum (electric spray) m/z=464 (M+1); 1H NMR (CDCl3): 8.45 (br, 1H), 7.89 (br d, 1H), 7.78 (dd, 1H), 7.68 (ddd, 1H), 7.24 (dd, 1H), 7.12 (ddd, 1H), 6.54 (d, 1H), 5.27 (m, 1H), 4.35 (m, 1H), 3.90 (m, 1H), 3.25 (m, 1H), 1.90 (m, 3H), 1.75 (m, 1H), 1.47 (s, 9H), 1.28 (d, 3H).

reactant | 4-(6-amino-pyridin-2-yloxy)-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=NC(=CC=C1)N)C | C16H25N3O3
reactant | 2-chloro-4-fluorobenzoyl chloride | 0.493 g | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-[6-(2-Chloro-4-fluoro-benzoylamino)-pyridin-2-yloxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.678 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=NC(=CC=C1)NC(C1=C(C=C(C=C1)F)Cl)=O)C | C23H27ClFN3O4
